** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/chopper/chopper_tb.sch
**.subckt chopper_tb
x1 phi1 vss vin_p phi2 vin_n phi1_n phi2_n vint_p vint_n vdd chopper
V1 vcm vss {vcm}
V2 vin_p vcm {vd/2}
V3 vin_n vcm {-vd/2}
C1 vint_n vcm 100f
C2 vint_p vcm 100f
V4 vdd vss 3.3
V5 vss 0 0
V6 phi1 vss PULSE(0 3.3 0 500p 500p {tper/2-tdead-500p} {tper})
V7 phi1_n vss PULSE(3.3 0 0 500p 500p {tper/2-tdead-500p} {tper})
V8 phi2 vss PULSE(0 3.3 {tper/2} 500p 500p {tper/2-tdead-500p} {tper})
V9 phi2_n vss PULSE(3.3 0 {tper/2} 500p 500p {tper/2-tdead-500p} {tper})
x2 phi1 vss vint_p phi2 vint_n phi1_n phi2_n vout_p vout_n vdd chopper
C3 vout_n vcm 100f
C4 vout_p vcm 100f
**** begin user architecture code

.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical


.param tper=20u
.param tdead=1n
.param vcm=1.65
.param vd=0.2
.csparam vd_cs=vd
.control
	tran 1n 80u
	let vdiff = v(vout_p)-v(vout_n)
        meas tran vavg AVG vdiff
	let error = vd_cs-vavg
        echo "$&error"
.endc

**** end user architecture code
**.ends

* expanding   symbol:  chopper/chopper.sym # of pins=10
** sym_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/chopper/chopper.sym
** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/chopper/chopper.sch
.subckt chopper phi1 vss vin_p phi2 vin_n phi1_n phi2_n vout_p vout_n vdd
*.iopin vss
*.iopin vin_p
*.iopin vin_n
*.iopin vout_p
*.iopin vout_n
*.ipin phi1
*.ipin phi2
*.ipin phi1_n
*.ipin phi2_n
*.iopin vdd
x1 vdd vin_p vss vout_p phi1_n phi1 tgate
x2 vdd vin_p vss vout_n phi2_n phi2 tgate
x3 vdd vin_n vss vout_p phi2_n phi2 tgate
x4 vdd vin_n vss vout_n phi1_n phi1 tgate
.ends


* expanding   symbol:  tgate/tgate.sym # of pins=6
** sym_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/tgate/tgate.sym
** sch_path: /foss/designs/chipathon-2026-gf180mcu-hall-effect-sensor/xschem/tgate/tgate.sch
.subckt tgate vdd va vss vb en_n en
*.iopin vdd
*.iopin vss
*.iopin en
*.iopin va
*.iopin vb
*.iopin en_n
XM1 vb en va vss nfet_03v3 L=0.28u W=6.4u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 va en_n vb vdd pfet_03v3 L=0.28u W=6.4u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
